US05902882
12.91 g of p-toluenesulphonyl chloride dissolved in 15 ml of dichloromethane were added at room temperature in the course of 15 minutes to 1.94 g of 4-(tert-butoxy)-benzoic acid and 2.63 g of 4-dimethylaminopyridine in 20 ml of dichloromethane. The reaction mixture was stirred for 2 hours and added in the course of 1 hour to 2.30 g of tert-butyl (3R,4R)-3-amino-4-hydroxy-azepan-1-carboxylate dissolved in 10 ml of dichloromethane. After stirring for 1 hour the reaction mixture was washed with 20 ml of 1N NaOH, 20 ml of 1N HCl and 20 ml of water. All aqueous phases were washed in succession with 10 ml of dichloromethane. The combined organic phases were dried over sodium sulphate, filtered and the solvent was evaporated. The foam-like residue obtained was dissolved in 80 ml of hot heptane and crystallized at room temperature overnight. The crystals were washed with 10 ml of heptane and dried to yield 3.23 g of tert-butyl (3R,4R)-3-(4-tert-butoxy-benzoylamino)-4-hydroxy-azepan-1-carboxylate, m.p. 134-135° C.

reactant | p-toluenesulphonyl chloride | 12.91 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4-(tert-butoxy)-benzoic acid | C(C)(C)(C)OC1=CC=C(C(=O)O)C=C1 | C11H14O3
reactant | tert-butyl (3R,4R)-3-amino-4-hydroxy-azepan-1-carboxylate | N[C@@H]1CN(CCC[C@H]1O)C(=O)OC(C)(C)C | C11H22N2O3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.63 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | heptane | 80 ml | CCCCCCC | C7H16
product | tert-butyl (3R,4R)-3-(4-tert-butoxy-benzoylamino)-4-hydroxy-azepan-1-carboxylate | 3.23 g | C(C)(C)(C)OC1=CC=C(C(=O)N[C@@H]2CN(CCC[C@H]2O)C(=O)OC(C)(C)C)C=C1 | C22H34N2O5
